US07511162B2
Finally, in a dry 2-necked, round bottomed flask, fixed with a separatory funnel, containing 17.93 g (60 mmol) of the prepared (9Z,12Z)-octadeca-9,12-dienoyl chloride, and side arm water condenser fixed with a dry receiving flask, is placed 7.64 g (72 mmol) of ammonium 2-aminopropanoate. The round bottomed flask is placed in an ice bath and the (9Z,12Z)-octadeca-9,12-dienoyl chloride is added drop wise. After addition is completed the mixture is shaken and the ice bath is replaced by a heating mantle. The flask is then heated until no more solution is dropping into the receiving flask. This crude distillate is then further fractionally distilled to yield 2-aminopropanoic (7Z,10Z)-hexadeca-7,10-dienoic anhydride.

reactant | (9Z,12Z)-octadeca-9,12-dienoyl chloride | 60 mmol, 17.93 g | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)Cl | C18H31ClO
reactant | ammonium 2-aminopropanoate | 72 mmol, 7.64 g | NC(C(=O)[O-])C.[NH4+]
product | (7Z,10Z)-hexadeca-7,10-dienoic anhydride | C(CCCCC\C=C/C\C=C/CCCCC)(=O)OC(CCCCC\C=C/C\C=C/CCCCC)=O | C32H54O3
